2161-08-20 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- received 1U upon arrival to floor
   -- received 1U early this AM
   -- 3 brown stools over last day
   Allergies:
   Aspirin
   bleeding;
   Advil (Oral) (Ibuprofen/P-Ephed Hcl/Cp)
   bleeding;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-8-19**] 02:45 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-8-20**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 96 (92 - 110) bpm
   BP: 113/71(82) {95/60(72) - 124/79(87)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,334 mL
                                                                    344 mL
   PO:
           TF:
   IVF:
                                                                  1,584 mL
                                                                    197 mL
   Blood products:
                                                                    750 mL
                                                                    148 mL
   Total out:
                                                                    300 mL
                                                                    200 mL
   Urine:
                                                                    300 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,034 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3L
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   GEN: thin, frail gentleman. Extremely fatigued appearing, pale, but
   NAD. Communicating and answering questions appropriately.
   HEENT: EOMI, PERRL, sclera anicteric, pale conjuctiva, MMM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: dry crackles diffusely, increased at the bases, no W/R
   ABD: Soft, NT, ND, +BS, no HSM, +umbilical hernia. No evidence of
   asictes
   EXT: No C/C/E
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities. Patellar DTR +1. Plantar reflex downgoing. No gait
   disturbance. No cerebellar dysfunction.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   36 K/uL
   8.0 g/dL
   121 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   19 mg/dL
   110 mEq/L
   138 mEq/L
   24.2 %
   2.4 K/uL
        [image002.jpg]
                             [**2161-8-19**]  10:05 AM
                             [**2161-8-19**]  09:19 PM
                             [**2161-8-20**]  04:35 AM
   WBC
   3.9
   2.4
   Hct
   22.9
   27.1
   24.2
   Plt
   46
   36
   Cr
   0.7
   0.7
   TropT
   <0.01
   Glucose
   174
   121
   Other labs: PT / PTT / INR:15.5/35.7/1.4, CK / CKMB /
   Troponin-T:42/3/<0.01, ALT / AST:17/28, Alk Phos / T Bili:79/1.9,
   Amylase / Lipase:50/, Differential-Neuts:75.8 %, Lymph:17.6 %, Mono:5.4
   %, Eos:1.1 %, Albumin:3.1 g/dL, LDH:188 IU/L, Ca++:7.4 mg/dL, Mg++:1.7
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ESOPHAGEAL VARICES
   This is a 61 year-old male with a history of HepC cirrhosis Grade II
   varices, Interstial Lung Disease, Celiac Sprue who presents with upper
   GI bleed s/p 4 bands in endoscopy today.  Pt transferred to [**Hospital Unit Name 1**] for
   close monitoring.
   .
   Plan:
   # Variceal Bleeding: Pt with 5 day history of melena, but no
   hemetamesis. Known history of HepC cirrhosis since [**2144**]. Pt underwent
   EGD that showed active bleeding from grade II varices. Successfully
   placed 4 bands and bleeding stopped. Prior labs show Hct of 31.8 with
   driop to 22.9 after procedure. Pt with low BP after procedure SBP
   90-100. Pt mentating appropriately, but extremeley fatigued upon
   arrival to floor. 5U typed and crossed.
   - Q6 Hct (goal Hct >28)
   - Octreotide gtt
   - IV Protonix 80mg bolus with 8mg/hr gtt
   - NPO including meds, ice chips
   - IVF to maintain MAPS > 65
   - Monitor on tele
   - cipro 400 IV bid for ppx
   .
   #. Hepatitis C Cirrhosis: see above. Pt followed by Dr. [**Last Name (STitle) 8964**] in Liver
   Center. MELD previously was 9. Genotype 1 VL 7,000. Never treated. Pt
   not on diuretics or lactulose. No asterexsis and mentating.
   - RUQ U/S with dopplers today
   - will f/u with Dr. [**Last Name (STitle) 2912**] and liver team regarding further recs.
   .
   #. Interstial Lung Disease: Pt dx 10 years prior. Was previously on
   prednisone, but stopped 6 years prior. Pt is only being treated with 3L
   home O2. Respiratory status currently stable on 3L O2.
   - cont 3L HC
   - monitor resp status
   .
   #. Celiac Sprue: stable, currently NPO
   - gluten free diet when not NPO
   .
   # FEN: NPO
   .
   # Access: 3 PIV
   .
   # PPx: pneumoboots, IV PPI
   .
   # Code: FULL (confirmed with patient)
   .
   # Dispo: callout today to medicine if stable after next HCT check
   .
   # Comm: Family was updated
   [**Name (NI) 2804**] (wife) [**Telephone/Fax (1) 8965**]
   [**Name (NI) **] (son) [**Telephone/Fax (1) 8966**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-8-19**] 10:20 AM
   22 Gauge - [**2161-8-19**] 10:20 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 61 yo M with HC cirrhosis, ILD on 3L supp O2,
   celiac ds admitted with UGI / variceal bleed s/p egd with
   banding. Remains HD stable. Transfused total of 2 units prbcs over last
   24 hrs.
   Exam notable for Tm AF BP 95-120 sys HR 96 RR 22 sat 99% on 3L.
   Thin  M in NAD. Flat JVP, rales b/l R > L, RR, soft NT abd, + BS, no
   edema
   wbc 2.4, hct 24.2, plt 36, cr 0.7, inr 1.4
   Agree with plan to manage variceal bleed with octreotide gtt and IV PPI
   following h and h. Will continue prophylactic Cipro.  Maintain 2 large
   bore PIVs.  GI is following. If repeat hct remains stable would advance
   diet. His t bili is up today--will fractionate, eval for hemolysis, and
   monitor.
   He is scheduled for ruq ultrasound with dopplers for additional
   information regarding cirrhosis. Remainder of plan as outlined in
   resident note.
   ICU:  PIVs, PPI, boots, Full code
   If repeat hct  stable will transfer to floor later today.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2161-8-20**] 03:16 PM ------

2161-08-21 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -stable Hct
   Allergies:
   Aspirin
   bleeding;
   Advil (Oral) (Ibuprofen/P-Ephed Hcl/Cp)
   bleeding;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-8-20**] 07:51 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-8-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 87 (81 - 98) bpm
   BP: 105/62(72) {103/58(68) - 121/78(88)} mmHg
   RR: 22 (16 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,522 mL
                                                                    202 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  3,052 mL
                                                                    202 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    840 mL
                                                                    650 mL
   Urine:
                                                                    840 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,682 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GEN: thin, frail gentleman. Extremely fatigued appearing, pale, but
   NAD. Communicating and answering questions appropriately.
   HEENT: EOMI, PERRL, sclera anicteric, pale conjuctiva, MMM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: dry crackles diffusely, increased at the bases, no W/R
   ABD: Soft, NT, ND, +BS, no HSM, +umbilical hernia. No evidence of
   asictes
   EXT: No C/C/E
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities. Patellar DTR +1. Plantar reflex downgoing. No gait
   disturbance. No cerebellar dysfunction.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   44 K/uL
   8.4 g/dL
   106 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.4 mEq/L
   10 mg/dL
   107 mEq/L
   137 mEq/L
   26.3 %
   2.8 K/uL
        [image002.jpg]
                             [**2161-8-19**]  10:05 AM
                             [**2161-8-19**]  09:19 PM
                             [**2161-8-20**]  04:35 AM
                             [**2161-8-20**]  12:42 PM
                             [**2161-8-21**]  04:25 AM
   WBC
   3.9
   2.4
   2.8
   Hct
   22.9
   27.1
   24.2
   30.9
   26.3
   Plt
   46
   36
   44
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   Glucose
   174
   121
   106
   Other labs: PT / PTT / INR:15.5/35.7/1.4, CK / CKMB /
   Troponin-T:42/3/<0.01, ALT / AST:17/28, Alk Phos / T Bili:79/1.9,
   Amylase / Lipase:50/, Differential-Neuts:75.8 %, Lymph:17.6 %, Mono:5.4
   %, Eos:1.1 %, Albumin:3.1 g/dL, LDH:188 IU/L, Ca++:7.4 mg/dL, Mg++:1.6
   mg/dL, PO4:2.5 mg/dL
   .
   .
   RUQ U/S:  Patent hepatic vasculature with normal directional flow.
   Diffusely coarsened echogenic liver consistent with known cirrhosis. No
   focal mass lesion is identified although evaluation is limited for
   small lesions secondary to the coarsened echotexture. Moderate to
   marked ascites. Marked splenomegaly with the spleen measuring 21 cm.
   Cholelithiasis with near complete filling with intraluminal stones
   Assessment and Plan
 ESOPHAGEAL VARICES
   .
   This is a 61 year-old male with a history of HepC cirrhosis Grade II
   varices, Interstial Lung Disease, Celiac Sprue who presents with upper
   GI bleed s/p 4 bands in endoscopy today.  Pt transferred to [**Hospital Unit Name 1**] for
   close monitoring.
   .
   Plan:
   # Variceal Bleeding: Pt with 5 day history of melena, but no
   hemetamesis. Known history of HepC cirrhosis since [**2144**]. Pt underwent
   EGD that showed active bleeding from grade II varices. Successfully
   placed 4 bands and bleeding stopped. Prior labs show Hct of 31.8 with
   driop to 22.9 after procedure. Pt with low BP after procedure SBP
   90-100. Pt mentating appropriately, but extremeley fatigued upon
   arrival to floor. 5U typed and crossed.
   - Q6 Hct (goal Hct >28)
   - Octreotide gtt
   - IV Protonix 80mg bolus with 8mg/hr gtt
   - NPO including meds, ice chips
   - IVF to maintain MAPS > 65
   - Monitor on tele
   - cipro 400 IV bid for ppx
   .
   #. Hepatitis C Cirrhosis: see above. Pt followed by Dr. [**Last Name (STitle) 8964**] in Liver
   Center. MELD previously was 9. Genotype 1 VL 7,000. Never treated. Pt
   not on diuretics or lactulose. No asterexsis and mentating.
   - RUQ U/S with dopplers today
   - will f/u with Dr. [**Last Name (STitle) 2912**] and liver team regarding further recs.
   .
   #. Interstial Lung Disease: Pt dx 10 years prior. Was previously on
   prednisone, but stopped 6 years prior. Pt is only being treated with 3L
   home O2. Respiratory status currently stable on 3L O2.
   - cont 3L HC
   - monitor resp status
   .
   #. Celiac Sprue: stable, currently NPO
   - gluten free diet when not NPO
   .
   # FEN: clears now, ADAT today
   .
   # Access: 3 PIV
   .
   # PPx: pneumoboots, IV PPI
   .
   # Code: FULL (confirmed with patient)
   .
   # Dispo: d/c home today after GI sees patient
   .
   # Comm: Family was updated
   [**Name (NI) 2804**] (wife) [**Telephone/Fax (1) 8965**]
   [**Name (NI) **] (son) [**Telephone/Fax (1) 8966**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-8-19**] 10:20 AM
   22 Gauge - [**2161-8-20**] 08:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: see above
   Disposition:see above